US06921753B2
(2S,3S,4R,5R)-5-{2-(Aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide
10% Palladium on carbon (400 mg) was added to a solution of (2S,3S,4R,5R)-4-(benzoyloxy)-5-{2-cyano-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate (Preparation 7) (2.0 g, 2.70 mmol) in a saturated solution of ammonia in ethanol (40 ml). The reaction mixture was stirred under an atmosphere of hydrogen (414 kPa, 60 psi) for 16 hours at room temperature. The suspension was filtered through Arbocel (Trade Mark) and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol:0.88 concentrated aqueous ammonia (95:5:0.5 by volume) increasing to (90:10:1 by volume). This gave the title compound as a solid (1.2 g).

reactant | (2S,3S,4R,5R)-4-(benzoyloxy)-5-{2-cyano-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | 2.70 mmol, 2.0 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C#N)C(=O)NCC | C41H35N7O6
reactant | ammonia | N | H3N
catalyst | Palladium on carbon | 400 mg | [Pd] | Pd
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | (2S,3S,4R,5R)-5-{2-(Aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide | 1.2 g | NCC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H31N7O4
